US06797823B1
N-{2-Chloro-4-[(7-{2-[(2-hydroxyethyl)-(methyl)amino]ethoxy}-6-methoxy-4-quinolyl)oxy]phenyl}-N′-(2,4difluorophenyl)urea
A starting compound (N-(4-{[7-(2-bromoethoxy)-6-methoxy-4-quinolyl]oxy}-2-chlorophenyl)-N′-(2,4-difluorophenyl)urea, 50 mg), potassium carbonate (138 mg), and 2-(methylamino)ethanol (0.040 ml) were dissolved in N,N-dimethylformamide (1 ml), and the solution was stirred at room temperature for 18 hr. Water was added to the reaction mixture, and the mixture was extracted with chloroform-propanol (3/1). The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed by distillation under the reduced pressure. The residue was washed with ether to give 48 mg (yield 97%) of the title compound.

reactant | N-(4-{[7-(2-bromoethoxy)-6-methoxy-4-quinolyl]oxy}-2-chlorophenyl)-N′-(2,4-difluorophenyl)urea | BrCCOC1=C(C=C2C(=CC=NC2=C1)OC1=CC(=C(C=C1)NC(=O)NC1=C(C=C(C=C1)F)F)Cl)OC | C25H19BrClF2N3O4
reactant | potassium carbonate | 138 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(methylamino)ethanol | 0.040 ml | CNCCO | C3H9NO
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | N-{2-Chloro-4-[(7-{2-[(2-hydroxyethyl)-(methyl)amino]ethoxy}-6-methoxy-4-quinolyl)oxy]phenyl}-N′-(2,4difluorophenyl)urea | 48 mg, yield 97% | ClC1=C(C=CC(=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OCCN(C)CCO)NC(=O)NC1=C(C=C(C=C1)F)F | C28H27ClF2N4O5
